US04290947
A mixture of dibenzyl (S)-aspartate p-toluene-sulfonic acid salt (48.6 g, 0.1 mole) diethylether (300 ml), water (100 ml), and saturated aqueous potassium carbonate (50 ml) is shaken vigorously. The layers are separated and the aqueous portion is extracted with more ether (2×100 ml). The combined ethereal extracts are washed with brine, dried with magnesium sulfate, filtered, and evaporated under vacuum to afford dibenzyl (S)-aspartate (31.5 g) as a water white liquid.

reactant | dibenzyl (S)-aspartate p-toluene-sulfonic acid salt | 0.1 mole, 300 ml, 48.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1
reactant | potassium carbonate | 50 ml | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | dibenzyl (S)-aspartate | 31.5 g | N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C18H19NO4
